* d:\soc\pll\pll.cir

.include avsdvco_1v8.sub
.include Charge_Pump.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
* u23  cp ic
.ic v(cp)=0
* u7  vdd out3 a net-_u1-pad1_ net-_u2-pad3_ net-_u1-pad3_ adc_bridge_3
* u14  net-_u1-pad4_ qa dac_bridge_1
v1 vdd gnd  dc 1.8
v2  a gnd pulse(0 1.8 10p 1.48p 1.48p 2.22n 4.44n)
* u16  qa plot_v1
* u4  vdd plot_v1
* u5  a plot_v1
* u13  net-_u13-pad1_ net-_u1-pad4_ net-_u1-pad2_ d_and
* u15  net-_u13-pad1_ qb dac_bridge_1
* u17  qb plot_v1
* u6  net-_u1-pad2_ rstn dac_bridge_1
* u3  rstn plot_v1
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ dff
* u2  net-_u1-pad1_ net-_u1-pad2_ net-_u2-pad3_ net-_u13-pad1_ dff
x1 vdd qa qb cp Charge_Pump
* u21  cp plot_v1
* s c m o d e
xsc1 cp net-_sc1-pad2_ vdd sky130_fd_pr__res_generic_pd l=1  W=1
xsc2 net-_sc1-pad2_ gnd sky130_fd_pr__cap_mim_m3_1 l=10 w=10
xsc3 cp gnd sky130_fd_pr__cap_mim_m3_1 l=10 w=10
x2 vdd cp ? fout gnd avsdvco_1v8
* u22  fout plot_v1
* u20  net-_u18-pad3_ net-_u18-pad4_ net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ freq_divideby_8nw
v3  rst gnd pulse(0 1.8 0 1.48p 1.48p 0.1n 1u)
* u18  fout rst net-_u18-pad3_ net-_u18-pad4_ adc_bridge_2
* u12  net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ out3 out2 out1 out0 dac_bridge_4
* u19  rst plot_v1
* u8  out3 plot_v1
* u10  out2 plot_v1
* u9  out0 plot_v1
* u11  out1 plot_v1
* u23  cp ic
a1 [vdd out3 a ] [net-_u1-pad1_ net-_u2-pad3_ net-_u1-pad3_ ] u7
a2 [net-_u1-pad4_ ] [qa ] u14
a3 [net-_u13-pad1_ net-_u1-pad4_ ] net-_u1-pad2_ u13
a4 [net-_u13-pad1_ ] [qb ] u15
a5 [net-_u1-pad2_ ] [rstn ] u6
a6 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ ] u1
a7 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u2-pad3_ ] [net-_u13-pad1_ ] u2
a8 [net-_u18-pad3_ ] [net-_u18-pad4_ ] [net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ ] u20
a9 [fout rst ] [net-_u18-pad3_ net-_u18-pad4_ ] u18
a10 [net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ ] [out3 out2 out1 out0 ] u12
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u7 adc_bridge(in_low=0 in_high=1.8 rise_delay=10p fall_delay=10p ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u14 dac_bridge(out_low=0.0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=10p t_fall=10p ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u13 d_and(rise_delay=10p fall_delay=10p input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u15 dac_bridge(out_low=0.0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=10p t_fall=10p ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=10p t_fall=10p ) 
* Schematic Name:                             dff, NgSpice Name: dff
.model u1 dff(rise_delay=10p fall_delay=10p input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dff, NgSpice Name: dff
.model u2 dff(rise_delay=10p fall_delay=10p input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             freq_divideby_8nw, NgSpice Name: freq_divideby_8nw
.model u20 freq_divideby_8nw(rise_delay=10p fall_delay=10p input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u18 adc_bridge(in_low=0 in_high=1.8 rise_delay=10p fall_delay=10p ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u12 dac_bridge(out_low=0.0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=10p t_fall=10p ) 
.tran 1e-09 200e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt

plot  v(fout)  v(cp)+2  v(qb)+4  v(qa)+6  v(out3)+8  v(a)+10

plot v(out0)  v(out1)+2  v(out2)+4  v(rst)+6
.endc
.end
